US05041672
A reaction vessel was charged with 60 g of toluene, 50 g of water, 37.3 g of 5-chloro-2-methyl-p-nitroaniline, 6 g of sodium hydroxide and 0.3 g of 1,4-naphthalenediol, and then the same procedure as in Example 1 was followed, to obtain 29.4 g of 2-chloro-5-methyl-p-phenylenediamine.

reactant | toluene | 60 g | C1(=CC=CC=C1)C | C7H8
reactant | 5-chloro-2-methyl-p-nitroaniline | 37.3 g | ClC=1C(=CC(=C(N)C1)C)[N+](=O)[O-] | C7H7ClN2O2
reactant | sodium hydroxide | 6 g | [OH-].[Na+]
catalyst | 1,4-naphthalenediol | 0.3 g | C1(=CC=C(C2=CC=CC=C12)O)O | C10H8O2
solvent | water | 50 g | O | H2O
product | 2-chloro-5-methyl-p-phenylenediamine | 29.4 g, Yield: 94% | ClC1=C(C=C(C(=C1)N)C)N | C7H9ClN2
